US20010001101A1
8-[2-Methoxycarbonyl-2-(2,2,2-trifluoroethylsulfonyl)-ethenylamino]quinoline (4 g) was added to diphenyl ether (100 ml) with stirring at 260° C., and stirring was continued for 2 hours. The mixture was allowed to cool to ambient temperature and hexane (100 ml) was added. The mixture was filtered, and the residue purified by flash chromatography on silica using increasingly polar mixtures of methanol and chloroform as eluant. The product so obtained was recrystallised from acetic acid to give 3-(2,2,2-trifluoroethyl-sulfonyl)-4-oxo-3,4-dihydro-1,10-phenanthroline, mp 272-274° C.

reactant | 8-[2-Methoxycarbonyl-2-(2,2,2-trifluoroethylsulfonyl)-ethenylamino]quinoline | 4 g | COC(=O)C(=CNC=1C=CC=C2C=CC=NC12)S(=O)(=O)CC(F)(F)F | C15H13F3N2O4S
reactant | diphenyl ether | 100 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 3-(2,2,2-trifluoroethyl-sulfonyl)-4-oxo-3,4-dihydro-1,10-phenanthroline | FC(CS(=O)(=O)C1C=NC2=C3N=CC=CC3=CC=C2C1=O)(F)F | C14H9F3N2O3S
